US09388146B2
About 70 g of 4-amino benzoic acid and 22 g of lithium hydroxide were mixed in 800 mL of DMAc. Then 100 g of 3,5-dibromo-6H-anthra[1,9-cd]isoxazol-6-one was dissolved in the pre-mixed solution. Nitrogen protection was applied to the reaction mixture at 45-55° C. for about 18-20 hours. After reaction completion was confirmed by HPLC, 30 mL of MTBE was slowly added to the reactor. Reaction mixture was then slowly cooled to 0-10° C. under nitrogen protection. Centrifuged the solid and washed with 18 mL of MTBE. Dried the wet cake under 25-30° C. to obtain about 69 g of 4-((3-bromo-6-oxo-6H-anthra[1,9-cd]isoxazol-5-yl)amino)benzoic acid.

reactant | 4-amino benzoic acid | 70 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | lithium hydroxide | 22 g | [OH-].[Li+]
reactant | 3,5-dibromo-6H-anthra[1,9-cd]isoxazol-6-one | 100 g | BrC1=CC(=C2C(C3=CC=CC=C3C3=C2C1=NO3)=O)Br | C14H5Br2NO2
reactant | MTBE | 30 mL | CC(C)(C)OC | C5H12O
solvent | DMAc | 800 mL | CC(=O)N(C)C | C4H9NO
product | 4-((3-bromo-6-oxo-6H-anthra[1,9-cd]isoxazol-5-yl)amino)benzoic acid | about 69 g | BrC1=CC(=C2C(C3=CC=CC=C3C3=C2C1=NO3)=O)NC3=CC=C(C(=O)O)C=C3 | C21H11BrN2O4
